* eeschema netlist version 1.1 (spice format) creation date: wed jun  3 14:55:15 2015

.include PMOS-5um.lib
.include NMOS-5um.lib
c1  out gnd 1u
v1 in gnd  dc 5
v2  vcc gnd 5
m1 out in gnd gnd mos_n W=100u L=100u M=1
m2 out in vcc vcc mos_p W=100u L=100u M=1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
