* /home/fossee/downloads/esim-master/examples/cmos_inverter/cmos_inverter.cir

.include PMOS-0.5um.lib
.include NMOS-0.5um.lib
c1  out 0 1u
v1 in 0  dc 5
v2  vcc 0 5
m1 out in 0 0 mos_n W=100u L=100u M=1
m2 out in vcc vcc mos_p W=100u L=100u M=1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
