* /home/fossee/updatedexamples/cmos_inverter/cmos_inverter.cir

.include PMOS-0.5um.lib
.include NMOS-0.5um.lib
v2  vcc gnd 5
m1 out in gnd gnd mos_n W=100u L=100u M=1
m2 out in vcc vcc mos_p W=100u L=100u M=1
* u1  in plot_v1
* u2  out plot_v1
c1  out gnd 1u
v1  in gnd pwl(0m 0 0.5m 5 50m 5 50.5m 0 100m 0)
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
